US06426417B1
2:3 Mixture of R-L and S-L Diastereomers of N-[[5-[2-[2-[(2,2-Dimethyl-1-oxopropyl)amino)-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic Acid, Diethyl Ester
Anhydrous pyridine (50.9 g, 642.9 mmol) was added to the 2:3 mixture of R-L and S-L diastereomers of N-[[5-[2-[2-amino-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic acid diethyl ester (24.7 g, 49.0 mmol) from Preparation 8 and 4-dimethylaminopyridine (1.49 g, 12.2 mmol). After heating to 100° C. with stirring, a yellow solution persisted. Pivalic anhydride (19.0 g, 102.8 mmol) was added over 4 minutes; with each drop a white solid formed then dispersed. At 4.5 hours the reaction was cooled to 50° C. (caution: solidifies at lower temperature), transferred to a separatory funnel and dichloromethane (500 mL) then 1N aqueous hydrochloric acid (660 mL) were added. The organic layer was separated and extracted with 1N aqueous hydrochloric acid (250 mL), plus dichloromethane (100 mL) to prevent clouding. The resulting organic layer was washed with a brine (200 mL) again requiring additional dichloromethane (100 ml) to prevent clouding, then dried over magnesium sulfate. The solvent was partially removed at 26.5 inches Hg vacuum and 40° C. until evaporation nearly ceased. To the remaining solution, anhydrous diethyl ether (300 mL) was added over 35 minutes to give a white mixture. After 15 minutes stirring, the solid was collected by vacuum filtration, washing twice with diethyl ether (100 mL). Note: the filtrations required 15-30 minutes and were stirred after each addition of diethyl ether. Vacuum drying at 40° C./5 Torr for 2 hours afforded 27.88 g crude product. This residue was refluxed in ethyl acetate (700 mL) until a light yellow solution was obtained. The contents were allowed to equilibrate to room temperature with stirring over 1 hour. The white mixture was placed in an ice bath and stirred 1.5 hours. The product was isolated by vacuum filtration, washing three times with cold ethyl acetate (50 mL) and once with diethyl ether (100 mL). Vacuum drying at 40° C./5 Torr afforded 19.40 g (68%) of the title compound as a white solid. mp 169° C.-170° C. [a]20D −0.2° (c 1.01, MeOH). EA calculated for C28H39N5O7S: C, 57.03; H, 6.67; N, 11.88; 0, 18.99; S, 5.44. Found: C, 57.05; H, 6.47; N, 11.66; 0, 19.16; S, 5.66.

reactant | pyridine | 642.9 mmol, 50.9 g | N1=CC=CC=C1 | C5H5N
reactant | N-[[5-[2-[2-amino-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic acid diethyl ester | 49.0 mmol, 24.7 g | C(C)OC([C@@H](NC(=O)C=1SC(=CC1)CCC1CC2=C(N=C(NC2=O)N)NC1)CCC(=O)OCC)=O | C23H31N5O6S
reactant | Pivalic anhydride | 102.8 mmol, 19.0 g | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | hydrochloric acid | 1N, 660 mL | Cl | ClH
catalyst | 4-dimethylaminopyridine | 12.2 mmol, 1.49 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-[[5-[2-[2-[(2,2-Dimethyl-1-oxopropyl)amino)-3,4,5,6,7,8-hexahydro-4-oxopyrido-(2,3-d)-pyrimidin-6-yl]ethyl]-2-thienyl]carbonyl]-L-glutamic Acid, Diethyl Ester | 19.40 g, 68% | CC(C(=O)NC=1NC(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)=O)(C)C | C28H39N5O7S
